US09056859B2
Step C: 5-Fluoro-1-formyl-2,3-dihydro-1H-indene-4-carbonitrile
A solution of 5-Fluoro-1-(methoxymethylidene)-2,3-dihydro-1H-indene-4-carbonitrile (10 mg, 0.049 mmol) in DCM was cooled to −78° C. To this solution was dropped BBr3 (0.492 ml, 0.492 mmol). The mixture was allowed to stir for 15 minutes, and then it was diluted with DCM (10 mL), washed with NaHCO3, dried over Na2SO4, and concentrated. The residue was used directly in the next step.

reactant | 5-Fluoro-1-(methoxymethylidene)-2,3-dihydro-1H-indene-4-carbonitrile | 0.049 mmol, 10 mg | FC1=C(C=2CCC(C2C=C1)=COC)C#N | C12H10FNO
reactant | BBr3 | 0.492 mmol, 0.492 ml | B(Br)(Br)Br | BBr3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-1-formyl-2,3-dihydro-1H-indene-4-carbonitrile | FC1=C(C=2CCC(C2C=C1)C=O)C#N | C11H8FNO
